US08975406B2
A solution of 3-fluoro-5-bromopyridine carboxylic acid methoxymethylamide (630 mg, 2.4 mmol) in dry THF (12 mL) was cooled to −50° C. and DIBAL (1M in THF; 2.8 mL, 2.8 mmol) was added over 15 min maintaining the temperature below −50° C. The reaction was stirred at −50° C. for 2 h. An additional portion of and DIBAL (1M in THF; 0.25 mL, 0.25 mmol) was added and the reaction mixture was allowed to warm slowly to −10° C. over 2 h. The reaction was quenched by the dropwise addition of water (5 mL) and the THF was removed in vacuo and a dilute solution of Rochelle's salt was added. The aqueous was extracted with EtOAc (×3) and the combined organics dried (MgSO4) and concentrated in vacuo. Purification by column chromatography (gradient: 10%-90% EtOAc in petroleum ether 40-60c) yielded 3-fluoro-5-bromopyridine-2-carbaldehyde as a yellow solid.

reactant | 3-fluoro-5-bromopyridine carboxylic acid methoxymethylamide | 2.4 mmol, 630 mg | COCNC(=O)C1=NC=C(C=C1F)Br | C8H8BrFN2O2
reactant | DIBAL | 2.8 mmol, 1M, 2.8 mL | CC(C)C[AlH]CC(C)C
reactant | DIBAL | 0.25 mmol, 1M, 0.25 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 3-fluoro-5-bromopyridine-2-carbaldehyde | FC=1C(=NC=C(C1)Br)C=O | C6H3BrFNO
